US06617339B1
3-(4-(3-Hydroxy-1-azetidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yl-oxymethyl)oxazolidin-2-one
3-(4-(3-t-Butyldimethylsilyloxy-1-azetidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxy methyl)oxazolidin-2-one (230 mg, 0.5 mmol) was dissolved in tetrahydrofuran (10 ml), and cooled under nitrogen to 0°. A solution of tetra-n-butylammonium fluoride (1 M, 1 ml, 1 mmol) was added and the mixture allowed to come to ambient temperature. Water (2 ml) was added, and the mixture evaporated to dryness. The residue was purified by chromatography on a 10 g silica Mega Bond Elut(D column, eluting with a gradient increasing in polarity from 0 to 2.5% MeOH in dichloromethane. Relevant fractions were combined and evaporated, then redissolved in EtOAc and the desired product (96 mg) precipitated by addition of isohexane.

reactant | 3-(4-(3-t-Butyldimethylsilyloxy-1-azetidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxy methyl)oxazolidin-2-one | 0.5 mmol, 230 mg | [Si](C)(C)(C(C)(C)C)OC1CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C22H30FN3O5Si
reactant | tetra-n-butylammonium fluoride | 1 mmol, 1 M, 1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | 2 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(4-(3-Hydroxy-1-azetidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yl-oxymethyl)oxazolidin-2-one | OC1CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C16H16FN3O5
